US09359338B2
Step 1: Synthesis of 4-[3-nitro-5-(trifluoromethyl)phenyl]thiomorpholine
Add 1-bromo-3-nitro-5-(trifluoromethyl)benzene (500 mg, 2.9 mmol), thiomorpholine (455 mg, 4.4 mmol), Cs2CO3 (2.86 g, 8.8 mmol), BINAP (55 mg, 0.09 mmol) and Pd2(dba)3 (54 mg, 0.06 mmol) under N2 to 1,4-dioxane (10 mL), stir the reaction under N2 at 100° C. for 16 hrs. TLC (100% PE) shows the reaction is complete. Cool the reaction to room temperature, filter and concentrate the filtrate under reduced pressure to get crude product. Purification by chromatography (silica gel, 100% PE) affords the target compound (475 mg, 55%). MS: (M+1): 293.1.

reactant | 1-bromo-3-nitro-5-(trifluoromethyl)benzene | 2.9 mmol, 500 mg | BrC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3BrF3NO2
reactant | thiomorpholine | 4.4 mmol, 455 mg | N1CCSCC1 | C4H9NS
reactant | Cs2CO3 | 8.8 mmol, 2.86 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.06 mmol, 54 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.09 mmol, 55 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-[3-nitro-5-(trifluoromethyl)phenyl]thiomorpholine | 475 mg, 55% | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)N1CCSCC1 | C11H11F3N2O2S
